US04230850
STAGE A. 4,8-Dihydroxy-3-phenyl-coumarin.
37.6 g. (0.14 mol) of 8-methoxy-4-hydroxy-3-phenylcoumarin are brought to reflux for 1 hour in a mixture of 750 ml. of 62% hydrobromic acid, 375 ml. of glacial acetic acid and 375 ml. of acetic anhydride. The mixture is poured on to 5.3 kg. of ice, filtered and dried. 25.3 g. of a solid are obtained, which is recrystallised from a mixture of dioxane and diisopropyl ether (50:50). Weight 13 g., yield 38.1% (theoretical yield 34.2 g.); M.P. 220° C.

reactant | 8-methoxy-4-hydroxy-3-phenylcoumarin | 0.14 mol | COC=1C=CC=C2C(=C(C(OC12)=O)C1=CC=CC=C1)O | C16H12O4
reactant | hydrobromic acid | Br | BrH
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,8-Dihydroxy-3-phenyl-coumarin | yield 38.1% | OC1=C(C(OC2=C(C=CC=C12)O)=O)C1=CC=CC=C1 | C15H10O4
